US04723006
47.9 Parts of 2-amino-4-chloromethyl-6-hydroxypyrimidine was added portionwise to 410 parts of phosphorus oxychloride with stirring. The mixture was placed in an oil bath at 130° C. and stirred until all the solid had dissolved and then for a further 10 minutes. The solution was cooled and the excess of phosphorus oxychloride was removed in vacuo. The residual viscous oil was poured onto 300 parts of ice with stirring and the pH of the resulting mixture was adjusted to pH 8 by the portionwise addition of solid sodium bicarbonate. The mixture was extracted four times with diethyl ether. The ether extracts were combined, dried over anhydrous magnesium sulphate and evaporated to give a pale-yellow solid. Recrystallisation from carbon tetrachloride gave pure 2-amino-4-chloro-6-chloromethylpyrimidine m.p. 126°-128° C.

reactant | 2-amino-4-chloromethyl-6-hydroxypyrimidine | NC1=NC(=CC(=N1)CCl)O | C5H6ClN3O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-amino-4-chloro-6-chloromethylpyrimidine | NC1=NC(=CC(=N1)Cl)CCl | C5H5Cl2N3
